US08629271B2
b) (9-((4-(2-Hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone
Tetrabutylammonium fluoride (1M in tetrahydrofuran, 2 mL) was added to a solution of (9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone (example 36, step a) (0.27 g) in tetrahydrofuran (4 mL). After 1 h, the solution was evaporated in vacuo. Purification by silica gel chromatography eluting with ethyl acetate:triethylamine, 20:1 gave the subtitled compound as a gum. Yield 0.18 g.

reactant | Tetrabutylammonium fluoride | 1M, 2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (9-((4-(2-(tert-butyldimethylsilyloxy)ethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | [Si](C)(C)(C(C)(C)C)OCCC=1C=C(SC1)CN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1 | C28H45N3O3S2Si
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | (9-((4-(2-Hydroxyethyl)thiophen-2-yl)methyl)-1-oxa-4,9-diazaspiro[5.5]undecan-4-yl)(2-isopropylthiazol-4-yl)methanone | OCCC=1C=C(SC1)CN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1 | C22H31N3O3S2
